US04329347
6-(4-Cyclohexylsulfinyl-butoxy)-carbostyril
Prepared analogous to Example 123 from 6-(4-cyclohexylmercapto-butoxy)-carbostyril and hydrogen peroxide.

reactant | 6-(4-cyclohexylmercapto-butoxy)-carbostyril | C1(CCCCC1)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H25NO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-(4-Cyclohexylsulfinyl-butoxy)-carbostyril | C1(CCCCC1)S(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H25NO3S
